US04182757
2.1 g of diethanolamine are dissolved in 30 ml of tetrahydrofuran, and 2.1 g of 2-chloroethyl isocyanate is added dropwise thereto at 0° to 5° C. The solution is stirred at room temperature for 2 hours. Then, the reaction solution is condensed under reduced pressure. 4.2 g of 1-(2-chloroethyl)-3,3-bis(2-hydroxyethyl)urea are obtained as a colorless oil.

reactant | diethanolamine | 2.1 g | N(CCO)CCO | C4H11NO2
reactant | 2-chloroethyl isocyanate | 2.1 g | ClCCN=C=O | C3H4ClNO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2-chloroethyl)-3,3-bis(2-hydroxyethyl)urea | 4.2 g | ClCCNC(=O)N(CCO)CCO | C7H15ClN2O3
